* 5-stage CMOS ring oscillator -- DirectNet LEVEL=73
* Benchmark 3a (docs/plans/2026-05-15-directnet-complex-circuits.md)
*
* Five inverter stages in a loop; n5 feeds back to n1. Alternating .ic seeds
* the latch out of its (unstable) DC operating point so oscillation starts.
* TECH=/VT= are placeholders -- the verify harness rewrites this netlist
* per technology and resolves the per-tech DirectNet checkpoint.
*
* L_n=16n / L_p=20n / NFIN=2 match the tsmc*_dn_medium checkpoints.

Vdd vdd 0 0.75
.ic V(n1)=0.0 V(n2)=0.75 V(n3)=0.0 V(n4)=0.75 V(n5)=0.0

Mp1 n1 n5 vdd vdd pmos_nn L=20n NFIN=2
Mn1 n1 n5 0   0   nmos_nn L=16n NFIN=2
Cl1 n1 0 0.5f

Mp2 n2 n1 vdd vdd pmos_nn L=20n NFIN=2
Mn2 n2 n1 0   0   nmos_nn L=16n NFIN=2
Cl2 n2 0 0.5f

Mp3 n3 n2 vdd vdd pmos_nn L=20n NFIN=2
Mn3 n3 n2 0   0   nmos_nn L=16n NFIN=2
Cl3 n3 0 0.5f

Mp4 n4 n3 vdd vdd pmos_nn L=20n NFIN=2
Mn4 n4 n3 0   0   nmos_nn L=16n NFIN=2
Cl4 n4 0 0.5f

Mp5 n5 n4 vdd vdd pmos_nn L=20n NFIN=2
Mn5 n5 n4 0   0   nmos_nn L=16n NFIN=2
Cl5 n5 0 0.5f

.model nmos_nn NMOS (LEVEL=73 TECH=tsmc7 VT=ulvt)
.model pmos_nn PMOS (LEVEL=73 TECH=tsmc7 VT=ulvt)

.tran 1p 5n

.end
